US08003785B2
A mixture of 0.089 g (0.22 mmole) of 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-11), 0.089 g (0.88 mmole) of triethylamine, 0.125 g (0.33 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 5 mL of dimethylformamide was stirred for 15 minutes, then 0.022 g (0.33 mmole) of methylamine hydrochloride was added. The mixture was stirred for 3 hours, then taken up in 100 mL of ethyl acetate and washed twice with 100 mL of water and then 100 mL of brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol-ammonium hydroxide (gradient 100:0:0-92:8:0.3) to give 0.056 g of 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-methyl-benzamide (I-13).

reactant | 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.22 mmole, 0.089 g | C1(CCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C19H19F2N5O3
reactant | triethylamine | 0.88 mmole, 0.089 g | C(C)N(CC)CC | C6H15N
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.33 mmole, 0.125 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | methylamine hydrochloride | 0.33 mmole, 0.022 g | Cl.CN
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-methyl-benzamide | 0.056 g | C1(CCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C(C(=O)NC)C=C2 | C20H22F2N6O2
